US06936602B1
In toluene (10 ml), ethanol (1.0 ml) and water (1.0 ml) were suspended methyl 7-bromo-1-(2-thienylcarbonyl)-2,3-dihydro-1-benzazepine-4-carboxylate (210 mg), 4-butoxyethoxyphenyl borate (166 mg) and potassium carbonate (192 mg), and the mixture was stirred for 30 minutes under argon atmosphere. Then, to the suspension was added tetrakistriphenylphosphinepalladium (43 mg), and the mixture was heated at 100° C. for 5 hours under argon atmosphere. After allowing to cool, to the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1) to give methyl 7-(4-butoxyethoxyphenyl)-1-(2-thienylcarbonyl)-2,3-dihydro-1-benzazepine-4-carboxylate (201 mg) as colorless oil.

reactant | ethanol | 1.0 ml | C(C)O | C2H6O
reactant | methyl 7-bromo-1-(2-thienylcarbonyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 210 mg | BrC=1C=CC2=C(C=C(CCN2C(=O)C=2SC=CC2)C(=O)OC)C1 | C17H14BrNO3S
reactant | 4-butoxyethoxyphenyl borate | 166 mg | B(OC1=CC=C(C=C1)OCCOCCCC)([O-])[O-]
reactant | potassium carbonate | 192 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakistriphenylphosphinepalladium | 43 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 1.0 ml | O | H2O
product | methyl 7-(4-butoxyethoxyphenyl)-1-(2-thienylcarbonyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 201 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(=O)C=2SC=CC2)C(=O)OC)C1 | C29H31NO5S
